US07915300B2
4-(2-Methylamino-thiazol-4-yl)-benzoic acid
To 25 ml of ethanol were added 4-(2-bromoacetyl)benzoic acid (486 mg, 2 mmole) and N-methyl thiourea (180 mg, 2 mmole). The reaction mixture was refluxed for 3 hr and the TLC showed the disappearing of the starting materials and the formation of a fluorescent product. The reaction was cooled on ice. The product was collected on filtration and washed with ethanol pre-cooled to 0° C. twice (2×3 ml), followed by diethyl ether. After drying, 486 mg product was obtained. 1H NMR (DMSO-d6, 400 MHz) δ 7.97 (2H, d), 7.89 (2H, d), 7.32 (1H, s), 2.96 (3H, s).

reactant | 4-(2-bromoacetyl)benzoic acid | 2 mmole, 486 mg | BrCC(=O)C1=CC=C(C(=O)O)C=C1 | C9H7BrO3
reactant | N-methyl thiourea | 2 mmole, 180 mg | CNC(=S)N | C2H6N2S
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(2-Methylamino-thiazol-4-yl)-benzoic acid | 486 mg | CNC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C11H10N2O2S
